US05658933
3-Methoxypyridine-2-carboxylic acid N-(((hexadecyloxy)-carbonyl)methyl)amide hydrochloride
7.7 ml (60mmol) of N-ethylmorpholine, 4.5 g (33mmol) of 1-hydroxy-1H-benzotriazole and 12.8 g (30 mmol) of N-cyclohexyl-N'-(2-morpholinoethyl)-carbodiimide methyl-p-toluenesulfonate (CMC) were added, in analogy with Examples 90b) and c), to 5.7 g (30 mmol) of 4-chloro-3-methoxypyridine-2-carboxylic acid and 14.2 g (30mmol) of glycine hexadecyl ester tosylate (m.p. approximately 90° C., prepared from glycine, 1-hexadecanol and p-toluene-sulfonic acid on a water separator using toluene) in 300 ml of dichloromethane, and the mixture was stirred for 24 h. The undissolved material was then filtered off with suction and the filtrate was extracted by shaking with an aqueous solution of Na bicarbonate, with water and with aqueous hydrochloric acids the organic phase was concentrated and the residue (14 g) was dissolved in 500 ml of tetrahydrofuran/methanol (1:1), and after that Pd/C (10%) was added to this mixture, which was hydrogenated using a hydrogenation vessel. Once the uptake of hydrogen was complete, the catalyst was filtered off with suction and the filtrate was concentrated and the residue chromatographed on silica gel using ethyl acetate. Appropriate fractions were concentrated and the residue was crystallized using diisopropyl ether. 2.1 g of the title compound were obtained as a colorless substance, m.p. 63°-65° C.

reactant | N-ethylmorpholine | 60mmol, 7.7 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxy-1H-benzotriazole | 33mmol, 4.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-cyclohexyl-N'-(2-morpholinoethyl)-carbodiimide methyl-p-toluenesulfonate | 30 mmol, 12.8 g | COS(=O)(=O)C1=CC=C(C=C1)C.C1(CCCCC1)N=C=NCCN1CCOCC1
reactant | 4-chloro-3-methoxypyridine-2-carboxylic acid | 30 mmol, 5.7 g | ClC1=C(C(=NC=C1)C(=O)O)OC | C7H6ClNO3
reactant | glycine hexadecyl ester tosylate | 30mmol, 14.2 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(CCCCCCCCCCCCCCC)OC(CN)=O
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | 1-hexadecanol | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | p-toluene-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Methoxypyridine-2-carboxylic acid N-(((hexadecyloxy)-carbonyl)methyl)amide hydrochloride | 2.1 g | Cl.C(CCCCCCCCCCCCCCC)OC(=O)CNC(=O)C1=NC=CC=C1OC | InChI=1S/C25H42N2O4.ClH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-20-31-23(28)21-27-25(29)24-22(30-2)18-17-19-26-24;/h17-19H,3-16,20-21H2,1-2H3,(H,27,29);1H
